US04960897
Preparation of 2-(1-chloromethylvinyl)-6-methoxypyridine (Compound No. I-10)
A mixture of 13.6 g of 2-isopropenyl-6-methoxypyridine, 16.3 g of N-chlorosuccinimide, 0.2 g of t-butylhydroperoxide and 30 ml of carbon tetrachloride was stirred at 140° C. for 5 hours while being irradiated with light. After the reaction mixture was cooled to room temperature, the insoluble matter was filtered out. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (eluted with ethyl acetate-n-hexane 1:25) to obtain the following three fractions: 4.75 g of a first fraction (objective product/byproduct=0.2), 5.99 g of a second fraction (objective product/byproduct=0.714) and 0.41 g of a third fraction (objective product=1.0).

reactant | 2-isopropenyl-6-methoxypyridine | 13.6 g | C(=C)(C)C1=NC(=CC=C1)OC | C9H11NO
reactant | N-chlorosuccinimide | 16.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | t-butylhydroperoxide | 0.2 g | C(C)(C)(C)OO | C4H10O2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-chloromethylvinyl)-6-methoxypyridine | ClCC(=C)C1=NC(=CC=C1)OC | C9H10ClNO
